US07238716B2
To a solution of methyl 3-hydroxyisoxazole-5-carboxylate (3.51 g) in N,N-dimethylformamide (100 mL) was added sodium hydride (60%, oil, 1.07 g) at 0° C. After stirring for 30 min., 4-chloromethyl-5-methyl-2-phenylthiazole (5.00 g) was added. After stirring at 60° C. for 2 hrs, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to give methyl 3-(5-methyl-2-phenyl-4-thiazolylmethoxy)-5-isoxazolecarboxylate (5.42 g, 74%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:4, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 89-90° C.

reactant | methyl 3-hydroxyisoxazole-5-carboxylate | 3.51 g | OC1=NOC(=C1)C(=O)OC | C5H5NO4
reactant | sodium hydride | 1.07 g | [H-].[Na+]
reactant | 4-chloromethyl-5-methyl-2-phenylthiazole | 5.00 g | ClCC=1N=C(SC1C)C1=CC=CC=C1 | C11H10ClNS
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | methyl 3-(5-methyl-2-phenyl-4-thiazolylmethoxy)-5-isoxazolecarboxylate | 5.42 g, 74% | CC1=C(N=C(S1)C1=CC=CC=C1)COC1=NOC(=C1)C(=O)OC | C16H14N2O4S
